US09422307B2
(R)—N2-(2-morpholinoethyl)-N4-(1-phenylethyl)-7-vinylthieno[3,2-d]pyrimidin-2,4-diamine
The target compound of Example 47 (34 mg, 65% yield) was prepared in the same manner as Step 3 of Example 44 using (R)-2-chloro-N-(1-phenylethyl)-7-vinylthieno[3,2-d]pyrimidin-4-amine (40 mg, 0.127 mmol) and 2-morpholinoethanamine (82 mg, 0.63 mmol).

reactant | (R)-2-chloro-N-(1-phenylethyl)-7-vinylthieno[3,2-d]pyrimidin-4-amine | 0.127 mmol, 40 mg | ClC=1N=C(C2=C(N1)C(=CS2)C=C)N[C@H](C)C2=CC=CC=C2 | C16H14ClN3S
reactant | 2-morpholinoethanamine | 0.63 mmol, 82 mg | O1CCN(CC1)CCN | C6H14N2O
product | (R)—N2-(2-morpholinoethyl)-N4-(1-phenylethyl)-7-vinylthieno[3,2-d]pyrimidin-2,4-diamine | 34 mg, 65% yield | O1CCN(CC1)CCNC=1N=C(C2=C(N1)C(=CS2)C=C)N[C@H](C)C2=CC=CC=C2 | C22H27N5OS
